US04016165
In the manner given in Example 1, 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine can be reacted with 3-chloro-2-butanone to give 7-chloro-2-[(2-chloro-1-methylpropylidene) hydrazino]-5-phenyl-3H-1,4-benzodiazepine.

reactant | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
reactant | 3-chloro-2-butanone | ClC(C(C)=O)C | C4H7ClO
product | 7-chloro-2-[(2-chloro-1-methylpropylidene) hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(C(C)Cl)C)C2=CC=CC=C2)C1 | C19H18Cl2N4
